data/oMe_Silver.jsonl
{"reaction_id": "NR-049_1-C(C)(C)C_2-c1ccccc1_3-C(C)(C)C_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(C(C)(C)C)C(c1ccccc1)S(C(C)(C)C)","O=C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["S(C(C)(C)C)C(c1ccccc1)(C(O)(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(C(C)(C)C)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C(C)(C)C)[C-](c1ccccc1)S(C(C)(C)C)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C(C)(C)C)C(c1ccccc1)(C([O-])(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(C(C)(C)C)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C(C)(C)C)C(c1ccccc1)(C(O)(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(C(C)(C)C)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
{"reaction_id": "NR-214_1-C=C","level": "medium","name": "Payne Rearrangement","reactants_smiles": ["C12C(CCCC1(C=C)O)O2"],"products_smiles": ["C12C(CCCC1(C=C)O2)O"],"conditions": "Acid-catalyzed","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C12C(CCCC1(C=C)O)[OH+]2","step_weight": 0,"rationale": "Protonation of the epoxide oxygen by acid increases the electrophilicity of the adjacent carbons through inductive withdrawal, making them more susceptible to nucleophilic attack."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C12C(CCCC1(C=C)[OH+]2)O","step_weight": 0,"rationale": "The neighboring hydroxyl oxygen attacks the more substituted, proton-activated epoxide carbon, driven by intramolecular proximity and relief of ring strain, forming a new epoxide ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C12C(CCCC1(C=C)O2)O","step_weight": 0,"rationale": "Deprotonation restores the neutral epoxy alcohol, favored by the stability of the product and removal of positive charge under acidic equilibrium conditions."}],"description": "Under acidic conditions, the epoxide oxygen is protonated to increase electrophilicity. The adjacent hydroxyl group then intramolecularly attacks, opening the ring and forming a new epoxide via rearrangement. Final deprotonation restores neutrality, yielding the rearranged epoxy alcohol."}
